US07342032B2
Part A; To 4-bromobenzaldehyde (25 gram, 0.135 mol) is successively added 2,4-dichlorophenylacetic acid (27.7 gram, 0.135 mol), acetic anhydride (100 mL) and triethylamine (19 mL, 0.136 mol) and the resulting mixture is heated at reflux temperature for 90 minutes. The reaction mixture is cooled to 110° C. and water (100 mL) is slowly added. The resulting mixture is allowed to attain room temperature and ethyl acetate is added. The ethyl acetate layer is twice washed with water, dried over MgSO4, filtered and concentrated in vacuo. The resulting oil is crystallised from diisopropyl ether to give 3-(4-bromophenyl)-2-(2,4-dichlorophenyl)acrylic acid as a white solid (26.55 gram, 53% yield).

reactant | 4-bromobenzaldehyde | 0.135 mol, 25 gram | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 2,4-dichlorophenylacetic acid | 0.135 mol, 27.7 gram | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.136 mol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 3-(4-bromophenyl)-2-(2,4-dichlorophenyl)acrylic acid | 26.55 gram, 53% yield | BrC1=CC=C(C=C1)C=C(C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C15H9BrCl2O2
